US06562811B1
To a stirred solution of 5-nitro4H-1,3-benzodioxine (10.0 g, 55.203 mmol) in carbon tetrachloride (70 mL) were added N-bromosuccinimide (10.808 g, 60.723 mmol) and 2,2′-azobisisobutyronitrile (0.906 g, 5.520 mmol). The mixture was stirred at 100° C. for 2 hrs. After cooled to room temperature, a solution of sodium ethoxide (4.884 g, 71.764 mmol) in ethanol (70 mL) was added to the mixture, and the stirring was continued at room temperature for 3 hrs. The reaction was quenched with water and extracted with ethyl acetate. The organic phase was washed with brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (hexane/ethyl acetate=9/1) to give 4-ethoxy-5-nitro-4H-1,3-benzodioxine as a pale yellow oil (10.8 g, yield; 87%).

reactant | 5-nitro4H-1,3-benzodioxine | 55.203 mmol, 10.0 g | [N+](=O)([O-])C1=CC=CC=2OCOCC21 | C8H7NO4
reactant | N-bromosuccinimide | 60.723 mmol, 10.808 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobisisobutyronitrile | 5.520 mmol, 0.906 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | sodium ethoxide | 71.764 mmol, 4.884 g | [O-]CC.[Na+]
solvent | carbon tetrachloride | 70 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | ethanol | 70 mL | C(C)O | C2H6O
product | 4-ethoxy-5-nitro-4H-1,3-benzodioxine | 10.8 g, yield; 87% | C(C)OC1OCOC2=C1C(=CC=C2)[N+](=O)[O-] | C10H11NO5
